datasets/10k__Tet_Int.csv
SMILES Labelled
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C(C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH](C)C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21]C)[O]C(C7=CC=CC=C7)C([H])[O]1 10=20;20,21=21"
"C[O:10][C:20]([O-:21])(OC1=CC=CC=C1)OCC>>[O:21]=[C:20](OC1=CC=CC=C1)OCC.[O-:10]C 21=20;20,10=10"
"[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"CC[O:10][H].C[NH+:21]=[C:20]([O]CC)[O]CC.[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]([NH:21]C)([O]CC)[O]CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)C([H])C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C([H])C(C)C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C(C)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C)C([H])C(CC)[NH][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C)[CH]([H])C([H])[O]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH](C)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C)CC.[O-:21]CC>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)C)CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])C)[H].[O-:21]C>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C)[H] 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21]C)[NH][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([NH][H])=[NH+:21]C 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C1=CC=CC=C1)C>>CCN([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C1=CC=CC=C1)[O-:10])C 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[NH][H].[Cl-]>>[Cl-].CC[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[NH][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].C[O+:21]=[C:20]([S]C8=CC=CC=C8)[S][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21]C)([S]C8=CC=CC=C8)[S][H] 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O:10]C(C)C(C8=CC=CC=C8)[S][C:20]([O]CC)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]CC 10=20;20,21=21"
"[H][NH:10]C([H])C([H])C(CC)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][O+:10](C(C)C(C)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C(C)[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][S:10]C(C)C([H])C(CC)[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]C1=CC=CC=C1)CC>>CCCCCCN([C:20](=[O:10])OCCCCCC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[S]2.[H][O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C8=CC=CC=C8)[O]CC.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C8=CC=CC=C8)[O]CC 21=20;20,10=10"
"CN([C:20]([O-:10])(O[H])[O:21]CCCCCC)C1=CC=CC=C1>>CN([C:20](=[O:10])O[H])C1=CC=CC=C1.[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH:10]C.C1CC(=O)N(C1=O)O[C:20](=[O:21])OC1=CC=CC=C1>>[H][NH+:10]([C:20]([O-:21])(ON1C(=O)CCC1=O)OC1=CC=CC=C1)C 10=20;20,21=21"
"[H][O:10]C([H])C(C)C([H])[O][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH]([H])C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C([H])[O]2.C[NH:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])[O][C:20]([O][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[O]1)[C:20]1([O:21][H])[O][H] 10=20;20,21=21"
"[H][O:10]C(C)C(C)C([H])[O][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)C1=CC=CC=C1)CCCCCC>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)C1=CC=CC=C1)[O-:10])CCCCCC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C([H])[CH]([H])[O]1 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CCCCCC)[O-:10])C1=CC=CC=C1>>CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
